*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/TB_Cout_lpe.spi
#else
.include ../../../work/xsch/TB_Cout_NVT_LL.spice
#endif
.include current_vdd.spi
*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-5

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p

.param m_alpha = 350
.param m_I0 = 62
.param m_beta = 16
.param m_gamma = 94
*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD  VDD  VSS   dc {AVDD}
VIN  VIN  VSS   dc {AVDD/2}  
VOUT VOUT VSS   dc {AVDD/2} ac 1

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.save v(VOUT) i(VOUT)


*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
set color0=white
set color1=black
unset askquit


ac dec 10 1 32768
write
quit


.endc

.end
